US05872137
To a mixture of 600 mg of 3,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)phenol, 330 mg of potassium carbonate and 10 ml of N,N-dimethylformamide was added dropwise a solution of 340 mg of 1,1,3-trichloro-1-propene dissolved in 3 ml of N,N-dimethylformamide, while stirring at room temperature. After stirring continued at room temperature for 5 hours, the reaction mixture was poured into ice-water, and extracted twice with 40 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 630 mg of 3,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene (82% yield), nD24.6 1.5067.

reactant | 3,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)phenol | 600 mg | ClC=1C=C(C=C(C1OC(C(F)F)(F)F)Cl)O | C8H4Cl2F4O2
reactant | potassium carbonate | 330 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,3-trichloro-1-propene | 340 mg | ClC(=CCCl)Cl | C3H3Cl3
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(1,1,2,2-tetrafluoroethoxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 630 mg, 82% yield | ClC=1C=C(C=C(C1OC(C(F)F)(F)F)Cl)OCC=C(Cl)Cl | C11H6Cl4F4O2
